US06468487B1
1 mmole of 1,3-bis(methozxycarbonyl)adamantane obtained by the method of Example 84 was dissolved in 30 ml of THF. To the mixture, 0.5 mmole of dimethylamine and 0.1 mmole of aluminum chloride anhydride AlCl3 was added and reacted for 6 hours at 80° C. As a result, The conversion of 1,3-bis(methoxycarbonyl)adamantane was 90%, and 1-methoxycarbonyl-3-(N,N-dimethylcarbamoyl)adamantane (yield 80%) was formed.

reactant | dimethylamine | 0.5 mmole | CNC | C2H7N
reactant | 1,3-bis(methoxycarbonyl)adamantane | COC(=O)C12CC3(CC(CC(C1)C3)C2)C(=O)OC | C14H20O4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-methoxycarbonyl-3-(N,N-dimethylcarbamoyl)adamantane | yield 80% | COC(=O)C12CC3(CC(CC(C1)C3)C2)C(N(C)C)=O | C15H23NO3
